US08471005B2
348a. 3-(4-Methyl-piperazin-1-yl)-piperidine-1-carboxylic acid tert-butyl ester
3-Oxo-piperidine-1-carboxylic acid tert-butyl ester (2.0 g, 1.0E1 mmol) and piperazine, 1-methyl- (1.10 g, 11.0 mmol) were dissolved in a solution of Acetic acid (0.500 mL, 8.79 mmol) and Methylene chloride (50.0 mL, 7.80E2 mmol). After stirring at room temperature for 15 minutes, Sodium triacetoxyborohydride (4.2 g, 2.0E1 mmol) was added and the reaction was allowed to stir overnight at room temperature. The reaction mixture was poured over saturated sodium bicarbonate and organics were extracted with dichloromethane/ethyl acetate. Combined extracts were then dried over sodium sulfate, filtered and reduced. TLC showed evidence of a new product (iodine visualization). 2.25 g of crude 3-(4-Methyl-piperazin-1-yl)-piperidine-1-carboxylic acid tert-butyl ester was used without further purification.

reactant | 3-Oxo-piperidine-1-carboxylic acid tert-butyl ester | 1.0E1 mmol, 2.0 g | C(C)(C)(C)OC(=O)N1CC(CCC1)=O | C10H17NO3
reactant | piperazine | N1CCNCC1 | C4H10N2
reactant | Acetic acid | 8.79 mmol, 0.500 mL | C(C)(=O)O | C2H4O2
reactant | Methylene chloride | 7.80E2 mmol, 50.0 mL | C(Cl)Cl | CH2Cl2
reactant | Sodium triacetoxyborohydride | 2.0E1 mmol, 4.2 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 3-(4-Methyl-piperazin-1-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CCC1)N1CCN(CC1)C | C15H29N3O2
